US06037354
To a solution of trans-3,4-difluorocinnamic acid (10 g, 54 mmol) in 300 mL methanol was added concentrated sulfuric acid (2 mL). The solution was stirred 48 h at ambient temperature and then concentrated in vacuo. The residue was taken up in ethyl acetate (500 mL) and washed with saturated sodium bicarbonate (2×100 mL), brine (1×100 mL), dried with magnesium sulfate, and concentrated in vacuo to provide trans-3,4-difluorocinnamic acid methyl ester (10.7 g, 54 mmol, 100%) as a white solid.

reactant | trans-3,4-difluorocinnamic acid | 54 mmol, 10 g | FC=1C=C(/C=C/C(=O)O)C=CC1F | C9H6F2O2
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 300 mL | CO | CH4O
product | trans-3,4-difluorocinnamic acid methyl ester | 54 mmol, 10.7 g, 100% | COC(\C=C\C1=CC(=C(C=C1)F)F)=O | C10H8F2O2
